US05622954
A solution of 30.4 grams (0.116 mole) of triphenylphosphine in about 116 mL of methylene chloride is stirred, and 7.9 grams (0.116 mole) of imidazole is added. Upon completion of addition, the reaction mixture is stirred about one hour until the imidazole dissolves, then 29.4 grams (0.116 mole) iodine is added portionwise. After the iodine dissolves, the reaction mixture is cooled to 0° C., and a solution of 36.3 grams (0.077 mole) of 3-(4-fluorophenyl)-3-methyl-1-tributylstannylbutanol in about 77 mL of methylene chloride is added dropwise, while maintaining the reaction mixture temperature below 0° C. Upon completion of addition, the reaction mixture is allowed to warm to ambient temperature where it is stirred for about 18 hours. The reaction mixture is then taken up in about 500 mL of acetonitrile and extracted with three 300 mL portions of hexane. The combined extracts are concentrated under reduced pressure to a residue. The residue is subjected to column chromatography on silica gel, using petroleum ether as the eluant. The product containing fractions are combined and concentrated under reduced pressure, yielding 17.8 grams of 3-(4-fluorophenyl)-3-methyl-1-iodo-1-tributylstannylbutane. The NMR spectrum is consistent with the proposed structure.

reactant | triphenylphosphine | 0.116 mole, 30.4 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 0.116 mole, 7.9 grams | N1C=NC=C1 | C3H4N2
reactant | iodine | 0.116 mole, 29.4 grams | II | I2
reactant | 3-(4-fluorophenyl)-3-methyl-1-tributylstannylbutanol | 0.077 mole, 36.3 grams | FC1=CC=C(C=C1)C(CC(O)[Sn](CCCC)(CCCC)CCCC)(C)C
solvent | methylene chloride | about 116 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 77 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | about 500 mL | C(C)#N | C2H3N
product | 3-(4-fluorophenyl)-3-methyl-1-iodo-1-tributylstannylbutane | 17.8 grams | FC1=CC=C(C=C1)C(CC([Sn](CCCC)(CCCC)CCCC)I)(C)C | InChI=1S/C11H13FI.3C4H9.Sn/c1-11(2,7-8-13)9-3-5-10(12)6-4-9;3*1-3-4-2;/h3-6,8H,7H2,1-2H3;3*1,3-4H2,2H3;
